US07534547B2
Synthesis of 2-n-propyloxy-6-(2-tert-butoxycarbonylvinyl)naphthalene (Compound 102)
Synthesis of 2-n-propyloxy-6-(2-tert-butoxycarbonylvinyl)naphthalene 2-n-propyloxy-6-(2-tert-butoxycarbonylvinyl)naphthalene was obtained in the same manner as in the Example 44, except for using 2-(n-propyloxy)-6-bromonaphthalene synthesized in the step (i) and hexane as the recrystallization solvent instead of 4-(tert-butoxycarbonyloxy)-4′-bromobiphenyl and methanol, respectively.

reactant | 2-n-propyloxy-6-(2-tert-butoxycarbonylvinyl)naphthalene 2-n-propyloxy-6-(2-tert-butoxycarbonylvinyl)naphthalene | C(CC)OC1=CC2=CC=C(C=C2C=C1)C=CC(=O)OC(C)(C)C.C(CC)OC1=CC2=CC=C(C=C2C=C1)C=CC(=O)OC(C)(C)C | 2C20H24O3
reactant | 2-(n-propyloxy)-6-bromonaphthalene | C(CC)OC1=CC2=CC=C(C=C2C=C1)Br | C13H13BrO
reactant | hexane | CCCCCC | C6H14
reactant | 4-(tert-butoxycarbonyloxy)-4′-bromobiphenyl | C(C)(C)(C)OC(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C17H17BrO3
solvent | methanol | CO | CH4O
product | 2-n-propyloxy-6-(2-tert-butoxycarbonylvinyl)naphthalene | C(CC)OC1=CC2=CC=C(C=C2C=C1)C=CC(=O)OC(C)(C)C | C20H24O3
